US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxymethyl-phenyl)-1H-imidazol-4-yl]-amide
(2-(4-nitro-1H-imidazol-1-yl)phenyl)methanol was reduced and coupled with (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 443 m/z (M+1).

reactant | (2-(4-nitro-1H-imidazol-1-yl)phenyl)methanol | [N+](=O)([O-])C=1N=CN(C1)C1=C(C=CC=C1)CO | C10H9N3O3
reactant | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)N[C@H](C(=O)O)CCC | C13H15F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-hydroxymethyl-phenyl)-1H-imidazol-4-yl]-amide | OCC1=C(C=CC=C1)N1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H24F2N4O3
